US06589978B2
(2RS,5RS)-1-{5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentyl}-1H-imidazole
The title compound, colorless oil, MS: m/e 456.5 (M+Ht), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(4-chloro-pentyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-imidazole.

reactant | (2RS,5RS)-2-(4-chloro-pentyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClC(CCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C)C | C22H27ClFNO2S
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
product | (2RS,5RS)-1-{5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentyl}-1H-imidazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCCN1C=NC=C1 | C25H30FN3O2S
